US07338959B2
D. N5-(2-Chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine
To a solution of N2-isopropyl-1-methyl-1H-benzimidazole-2,5-diamine (1.46 g, 7.2 mmol) in THF (7 ml) and ethanol (21 ml) was added NaHCO3 (1.81 g, 21.6 mmol) and 2,4-dichloropyrimidine (2.68 g, 18 mmol) and the reaction was heated to 75° C. After 5 h, the reaction was filtered hot and concentrated to a gray foam. Ether was added and the solid was filtered and dried to give N5-(2-chloro-pyrimidin-4-yl)-N2-isopropyl-1-methyl-1H-benzimidazole-2,5-diamine as an off-white solid. N5-(2-chloro-pyrimidin-4-yl)-N2-isopropyl-1-methyl-1H-benzimidazole-2,5-diamine was dissolved in DMF (21 ml) and cesium carbonate (6.84 g, 21 mmol) was added After 15 min, iodomethane (0.70 ml, 11.2 mmol) was added, and the reaction was stirred at rt. After TLC showed the starting material to be consumed, the reaction was diluted with water. The aqueous layer was extracted with EtOAc. The combined organic layers were washed with water, dried over MgSO4 and concentrated to a red foam. The crude material was purified with silica gel to give the title compound as a white solid (1.10 g, 46% over two steps). 1H NMR (300 MHz, d6-DMSO) δ 7.87 (d, J=6.0 Hz, 1H), 7.22 (d, J=8.1 Hz, 1H), 7.11 (1.8 Hz, 1H), 6.82 (dd, J=8.1 and 1.8 Hz, 1H), 6.53 (d, J=7.5 Hz, 1H), 6.09 (d, J=6.0 Hz, 1H), 4.04 (m, 1H), 3.51 (s, 3H), 3.37 (s, 3H), 1.23 (d, J=6.6 Hz, 6H). MS (ESI) m/z=331 [M+H]+.

reactant | N5-(2-chloro-pyrimidin-4-yl)-N2-isopropyl-1-methyl-1H-benzimidazole-2,5-diamine | ClC1=NC=CC(=N1)NC1=CC2=C(N(C(=N2)NC(C)C)C)C=C1 | C15H17ClN6
reactant | cesium carbonate | 21 mmol, 6.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 11.2 mmol, 0.70 ml | IC | CH3I
solvent | DMF | 21 ml | CN(C)C=O | C3H7NO
product | N5-(2-Chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine | 1.10 g, 46% | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C)C)C=C1)C | C16H19ClN6
